US07196104B2
Preparation AX: 2-(4-(4-morpholinyl)sulfonylphenyl)-thiazole-4-carboxylic acid
In a manner similar to that described for the preparation of 2-(4-aminosulfonylphenyl)thiazole-4-carboxylic acid, 460 mg of 4-(morpholinosulfonyl)-benzonitrile was treated with H2S, ethyl bromopyruvate, and LIOH successively to give the title compound. MS m/z: 355 (M+H).

reactant | 2-(4-aminosulfonylphenyl)thiazole-4-carboxylic acid | NS(=O)(=O)C1=CC=C(C=C1)C=1SC=C(N1)C(=O)O | C10H8N2O4S2
reactant | 4-(morpholinosulfonyl)-benzonitrile | 460 mg | O1CCN(CC1)S(=O)(=O)C1=CC=C(C#N)C=C1 | C11H12N2O3S
reactant | H2S | S | H2S
reactant | ethyl bromopyruvate | BrCC(C(=O)OCC)=O | C5H7BrO3
product | 2-(4-(4-morpholinyl)sulfonylphenyl)-thiazole-4-carboxylic acid | N1(CCOCC1)S(=O)(=O)C1=CC=C(C=C1)C=1SC=C(N1)C(=O)O | C14H14N2O5S2
